Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Humira / Humira / Penicillins / erythromycin base / codeine / 
doxycycline / Keflex / clindamycin / Influenza Virus Vaccines
 
Attending: ___.
 
Chief Complaint:
Diffuse joint pain and swelling 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:  This is a ___ year-old with the history below who presented
to the ED yesterday complaining of diffuse myalgias and
arthralgias worsening over 9 days, ultimately with pain and
inflammation of the shoulders, elbows, and hands/fingers so
severe as to limit her walking (hip pain) and use of her arms 
and
hands.  Additionally she reports low grade fever (99-100.2) over
6 days and over the past ___ hours, has had a sore throat
without cough, that is improved but present today.  She 
presented
to the ED where she was given  plaquenil, fluids, toradol IV,
multiple doses of IV morphine and admitted for "RA flare" for
ongoing management.

 
Past Medical History:
RA
Depression
Asthma
Seasonal allergy

 
Social History:
___
Family History:
Her maternal niece and maternal uncle have rheumatoid arthritis. 

 
Physical Exam:
VS: 97,8 PO 122 / 75 96 16 98 RA 
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions (cannot see any tonsilar exudates or coating), no
supraclavicular or cervical lymphadenopathy, no JVD, no carotid
bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing.  there is some notable edema
of the ___ MCP joint, rt greater than left, and UEs with pain
with active motion throughout, cannot fully extend either elbow
due to pain
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  Cn II-XII intact.  ___ strength throughout.  
No
sensory deficits to light touch appreciated.  No pass-pointing 
on
finger to nose.  2+DTR's-patellar and biceps. No asterixis, no
pronator drift, fluent speech.
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

 
Pertinent Results:
___ 09:00AM URINE  HOURS-RANDOM
___ 09:00AM URINE  HOURS-RANDOM
___ 09:00AM URINE  HOURS-RANDOM
___ 09:00AM URINE  UCG-NEGATIVE
___ 09:00AM URINE  GR HOLD-HOLD
___ 09:00AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:00AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 09:00AM URINE  RBC-4* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 09:00AM URINE  HYALINE-1*
___ 09:00AM URINE  MUCOUS-MOD
___ 09:00AM URINE  RBC-4* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-4
___ 09:00AM URINE  HYALINE-1*
___ 09:00AM URINE  MUCOUS-MOD
___ 02:50AM   GLUCOSE-91 UREA N-22* CREAT-0.9 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-100 TOTAL CO2-23 ANION GAP-18
___ 02:50AM   ALT(SGPT)-18 AST(SGOT)-15 LD(LDH)-219 ALK 
PHOS-67 TOT BILI-0.4
___ 02:50AM   CALCIUM-9.3 PHOSPHATE-4.7* MAGNESIUM-2.1
___ 02:50AM   CRP-27.1*
___ 02:50AM   WBC-13.7* RBC-4.09 HGB-13.2 HCT-38.8 MCV-95 
MCH-32.3* MCHC-34.0 RDW-11.7 RDWSD-40.8
___ 02:50AM   NEUTS-70.0 LYMPHS-15.7* MONOS-11.2 EOS-2.3 
BASOS-0.4 IM ___ AbsNeut-9.60*# AbsLymp-2.15 AbsMono-1.53* 
AbsEos-0.31 AbsBaso-0.05
___ 02:50AM   PLT COUNT-265
___ 01:45AM   GLUCOSE-94 UREA N-21* CREAT-1.1 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-20* ANION GAP-21*
___ 01:45AM   WBC-ERROR DISR RBC-ERROR DISR HGB-ERROR DISR 
HCT-ERROR DISR MCV-ERROR DISR MCH-ERROR DISR MCHC-ERROR DISR 
RDW-ERROR DISR RDWSD-ERROR DISR
___ 01:45AM   NEUTS-UNABLE TO  LYMPHS-UNABLE TO  
MONOS-UNABLE TO  EOS-UNABLE TO  BASOS-UNABLE TO  AbsNeut-UNABLE 
TO  AbsLymp-UNABLE TO  AbsMono-UNABLE TO  AbsEos-UNABLE TO  
AbsBaso-UNABLE TO 
___ 01:45AM   PLT COUNT-UNABLE TO 
============================
ADMISSION CHEST X RAY 
No evidence of pneumonia 

 
Brief Hospital Course:
___ y/o F with a history of seropositive RA (+RF and +CCP) who 
presents with polyarticular pain and swelling, in addition to 
low grade fevers and sore
throat. Rheumatology was consulted for the question of an RA
flare.
Given the polyarticular pain, synovitis on exam, in the setting
of a lack of regular treatment for her RA and possibly a viral
infection (sore throat and low grade fever), her presentation 
was thought to be consistent with  a Rheumatoid Arthritis flare. 
 They thought that she would  benefit
from initiation of steroids now to decrease pain and 
inflammation.  Long term, she would benefit from a DMARD such as 
Methotrexate, and the plan was to discuss this at her follow up 
visit with Dr. ___ on ___.
Their recommendations were:
"- Initiate Prednisone 30mg daily x1 week, then taper down to 
20mg
daily, further downtitration to be determined at outpatient
Rheumatology visit
- We have provided the patient with information about
Methotrexate so she can have a more informed discussion about it
at her next clinic visit. Additionally, we will attempt to move
this appointment with Dr. ___ on ___ to sooner, if
possible.
- Check ___, Anti-dsDNA, Ro, La, and Complement
levels, to evaluate for SLE"
.
The patient requested to leave since it was her birthday and she 
and her husband felt that she could care for herself at home. 
Her hospital course was reviewed. She was receiving oxycodone 5 
mg three times a day here. Her PMP was reviewed and it was not 
concerning. She was given a prescription for 15 tablets at 5 mg 
tid PRN pain. She understood that by receiving this short 
prescription it might make it harder for her to get a longer 
course from another provider. She demonstrated understanding of 
this. Pt counseled to avoid using heavy machinery or taking it 
with ambien which she also received a ppx for in the last month 
based on PMP review. She also demonstrating understanding of 
this. I reviewed with her that rheumatology wanted the 
aforementioned labs checked but that she could have them drawn 
when she sees Dr. ___ in f/u. Her care was d/w Dr. ___ 
rheumatology attending who agreed with discharging her tonight.
She was continued on her home medications and given only two 
prescriptions, one for prednisone 20 mg daily for 1 week and one 
for oxycodone as described above.  
[X]Time spent on discharge related activities: > 30 minutes.

above completed by Dr. ___ discharge orders and plan 
completed by Dr. ___.  I was attending of record when pt 
was admitted, and so am signing this document to finalize it.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO BID 
2. Diclofenac Sodium ___ 75 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. Cetirizine 20 mg PO DAILY 
5. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
2. Cetirizine 20 mg PO DAILY 
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
 Please do not take with ambien or other sedatives. No 
driving/heavy machinery use 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth three times a 
day Disp #*15 Tablet Refills:*0
4. Diclofenac Sodium ___ 75 mg PO BID 
Pt takes this at home.  
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. Venlafaxine XR 75 mg PO DAILY 
Pt has been on this regimen for years w/o side effect 
7. PredniSONE 30 mg PO DAILY Duration: 7 Days 
Please contact Dr. ___ re a prescription for the rest of 
your prednisone taper.  
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Rheumatoid Arthritis
Secondary 
1. Multiple food allergies, with a chronic rash. 
2. Well controlled asthma, 
3. H/o Thyroid disease in past, treated with PTU previously,
euthyroid since
4. Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___:
You were admitted with a flare of your rheumatoid arthritis. You 
were seen by the rheumatology consult service and attending Dr. 
___. It was decided to start you on a prednisone taper starting 
with prednisone 30 mg daily for a week. Today is day 1 of 7 and 
you have already taken 30 mg for today. Please contact Dr.  ___ 
___ the rest of your prednisone taper. You were a short course of 
oxycodone for pain control. Please do not take while driving or 
operating other dangerous equipment or when taking ambien. This 
medication causes sedation.. 
 
Followup Instructions:
___